US06521623B1
1-[2-(1-Piperidinyl)ethyl)-1,3-dihydro-2H-benzimidazol-2-one
A solution of 1-isopropenyl-1,3-dihydro-2H-benzimidazol-2-one (35 g, 0.2 moles) in DMF (250 ml) was added dropwise to a suspension of 80% sodium hydride (6 g, 0.2 moles) in DMF (50 ml). The reaction mixture was first heated at 45° C. for 30 minutes, allowed to cool at room temperature, and an additional amount of 80% sodium hydride (7.2 g, 0.24 moles) was added. Then 1-(2-chloroethyl)piperidine hydrochloride (44.16 g, 0.24 moles) was added portionwise and the reaction mixture was heated at 80° C.-90° C. for 3 hours. The mixture was then cooled at room temperature, adjusted to pH 3 with 37% aqueous HCl, and heated to 80° C. for additional 2 hours. The reaction mixture was poured into water and washed with ethyl acetate. The aqueous phase was adjusted to pH 8-9 with a saturated sodium carbonate solution and extracted into ethyl acetate. The organic layer was taken to dryness to give an ivory solid which after crystallization from isopropyl ether afforded 22.9 g of the title compound. M.p. 123° C.-125° C.

reactant | 1-isopropenyl-1,3-dihydro-2H-benzimidazol-2-one | 0.2 moles, 35 g | C(=C)(C)N1C(NC2=C1C=CC=C2)=O | C10H10N2O
reactant | sodium hydride | 0.2 moles, 6 g | [H-].[Na+]
reactant | sodium hydride | 0.24 moles, 7.2 g | [H-].[Na+]
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 0.24 moles, 44.16 g | Cl.ClCCN1CCCCC1
reactant | HCl | Cl | ClH
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-[2-(1-Piperidinyl)ethyl)-1,3-dihydro-2H-benzimidazol-2-one | 22.9 g | N1(CCCCC1)CCN1C(NC2=C1C=CC=C2)=O | C14H19N3O
